US04728735
(b) Preparation of 2-i-propylaminothiophenol
Use the method of Example 17b, reaction of 2,2-dimethylbenzothiazolidine with sodium borohydride to obtain the title compound.

reactant | 2,2-dimethylbenzothiazolidine | CC1(SC2=C(N1)C=CC=C2)C | C9H11NS
reactant | sodium borohydride | [BH4-].[Na+]
product | 2-i-propylaminothiophenol | C(C)(C)NC1=C(C=CC=C1)S | C9H13NS
